US06720320B2
ethyl 4-hydroxy-1-(2-methylpropyl)indole-2-carboxylate
By the reactions in the same manner as in Starting Material Synthesis Example 10 using ethyl 4-benzyloxy-1-(2-methylpropyl)indole-2-carboxylate (6.0 g) and 10% palladium-carbon (0.6 g), the title compound was obtained as pale-brown crystals.

reactant | ethyl 4-benzyloxy-1-(2-methylpropyl)indole-2-carboxylate | 6.0 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)CC(C)C)C(=O)OCC | C22H25NO3
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
product | ethyl 4-hydroxy-1-(2-methylpropyl)indole-2-carboxylate | OC1=C2C=C(N(C2=CC=C1)CC(C)C)C(=O)OCC | C15H19NO3
